US08232294B2
Step 2) 1-(hydroxymethyl)cyclopropyl benzoate
To a mixture of 1-((tetrahydro-2H-pyran-2-yloxy)methyl)cyclopropyl benzoate (2 g, 7.2 mmol) in 30 mL of MeOH was added PPTS (2.7 g, 10.8 mmol, Aldrich) at rt. The reaction mixture was stirred at rt overnight, then concentrated and purified by a silica gel column chromatography (4:1 (v/v) petroleum ether/EtOAc) to afford the title compound as colorless oil (1.2 g, 87%).

reactant | 1-((tetrahydro-2H-pyran-2-yloxy)methyl)cyclopropyl benzoate | 7.2 mmol, 2 g | C(C1=CC=CC=C1)(=O)OC1(CC1)COC1OCCCC1 | C16H20O4
reactant | PPTS | 10.8 mmol, 2.7 g | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
solvent | MeOH | 30 mL | CO | CH4O
product | 1-(hydroxymethyl)cyclopropyl benzoate | 1.2 g, 87% | C(C1=CC=CC=C1)(=O)OC1(CC1)CO | C11H12O3
